US07767674B2
[4-(4-Amino-phenoxy)-piperidin-1-yl]-(2,6-dichlorophenyl)-methanone
The above white solid, {4-[1-(2,6-dichloro-benzoyl)-piperidin-4-yloxy]-phenyl}-carbamic acid tert-butyl ester, is suspended in a solution of trifluoroacetic acid in dichloromethane (25% v/v, 20 mL). The reaction mixture is stirred at 22° C. for 15 min. After removal of the solvent, the oily residue is neutralized with 0.5 N aqueous sodium hydroxide solution (50 mL) and extracted with dichloromethane (5×50 mL). The combined organic phases are dried over anhydrous sodium sulfate and concentrated to yield a yellow solid (440.2 mg, 92.0% yield, ES+(m/z) 365.1 [M+H]).

reactant | {4-[1-(2,6-dichloro-benzoyl)-piperidin-4-yloxy]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC1CCN(CC1)C(C1=C(C=CC=C1Cl)Cl)=O)=O | C23H26Cl2N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | [4-(4-Amino-phenoxy)-piperidin-1-yl]-(2,6-dichlorophenyl)-methanone | 92.0% yield | NC1=CC=C(OC2CCN(CC2)C(=O)C2=C(C=CC=C2Cl)Cl)C=C1 | C18H18Cl2N2O2
